US09278950B2
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylic acid (0.014 g, 0.034 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate (0.015 g, 0.041 mmol) and HATU (0.033 g, 0.086 mmol) in DMF (0.14 mL), DIPEA (0.018 mL, 0.10 mmol) was added. The mixture was stirred at room temperature for 2 h, then quenched with 5 mL of EtOAc and 3 mL of 1 M NaOH. The layers were separated and aqueous phase was extracted with EtOAc. The organic phases were combined and concentrated under vacuum. The residue was purified by flash chromatography on 20 g silica gel column, eluting with 0-30% MeOH in EtOAc, to yield an amide intermediate, benzyl {2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-morpholin-4-ylquinolin-3-yl}carbamate.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-morpholin-4-ylquinoline-2-carboxylic acid | 0.034 mmol, 0.014 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CCOCC1)C(=O)O | C22H21N3O5
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-(trifluoromethyl)piperidin-3-yl]carbamate | 0.041 mmol, 0.015 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H23F3N4O2
reactant | HATU | 0.086 mmol, 0.033 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 mmol, 0.018 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.14 mL | CN(C)C=O | C3H7NO
product | benzyl {2-[({4-[(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-(trifluoromethyl)piperidin-1-yl]pyridin-3-yl}amino)carbonyl]-7-morpholin-4-ylquinolin-3-yl}carbamate | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C(F)(F)F)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CCOCC1 | C38H42F3N7O6
